US07915424B2
N-[5-(5-Cyanopyridin-3-ylethynyl)-2-fluorobenzyl]acetamide
Add zinc (II) bromide (313 mg, 1.20 mmol), triethylamine (0.67 mL, 4.80 mmol), 5-bromonicotinonitrile (183 mg, 1.00 mmol), tetrakis(triphenylphosphine)palladium (0) (58 mg, 0.050 mmol), and a 1.0 M solution of tetrabutylammonium fluoride (2.0 mL) in tetrahydrofuran to a solution of N-(2-fluoro-5-trimethylsilanylethynylbenzyl) -acetamide, (prepared as described in PREPARATION 31), (289 mg, 1.10 mmol) in anhydrous tetrahydrofuran (2.5 mL) under nitrogen. Heat to 60° C. for 5 h, cool to room temperature, and filter through diatomaceous earth. Concentrate and purify the residue by silica gel chromatography, eluting with 100:0 to 50:50 hexanes:ethyl acetate, to give the title compound as a white crystalline solid (122 mg, 42%).

reactant | triethylamine | 4.80 mmol, 0.67 mL | C(C)N(CC)CC | C6H15N
reactant | 5-bromonicotinonitrile | 1.00 mmol, 183 mg | BrC=1C=NC=C(C#N)C1 | C6H3BrN2
reactant | tetrabutylammonium fluoride | 2.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-(2-fluoro-5-trimethylsilanylethynylbenzyl) -acetamide | 1.10 mmol, 289 mg | FC1=C(CNC(C)=O)C=C(C=C1)C#C[Si](C)(C)C | C14H18FNOSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
catalyst | zinc (II) bromide | 1.20 mmol, 313 mg | [Br-].[Zn+2].[Br-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.050 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[5-(5-Cyanopyridin-3-ylethynyl)-2-fluorobenzyl]acetamide | 122 mg, 42% | C(#N)C=1C=C(C=NC1)C#CC=1C=CC(=C(CNC(C)=O)C1)F | C17H12FN3O
